US05756546
Preparation of the nimesulide-L-lysine-β-CD inclusion complex by nebulization
6.16 g of nimesulide (2×10-2 mole) are suspended in 200 ml of distilled water to which 6.56 g of L-lysine (4×10-2 mole) are added. The suspension is subjected to ultrasound for 5 minutes and then heated to 50° C. while violent agitation is maintained [Ultraturrax (registered mark)]. 26.3 g of β-CD·10H2O (2×10-2 mole) are dispersed in 200 ml of distilled water and heated to 50° C. The suspension of β-CD is added to the suspension of nimesulide and L-lysine. The agitation is continued for 15 minutes. An orangy solution is obtained.

reactant | nimesulide | 2×10-2 mole, 6.16 g | CS(=O)(=O)NC=1C=CC(=CC1OC=2C=CC=CC2)[N+](=O)[O-] | C13H12N2O5S
reactant | L-lysine | 4×10-2 mole, 6.56 g | N[C@@H](CCCCN)C(=O)O | C6H14N2O2
reactant | β-CD | C([C@@H]1[C@@H]2[C@@H]([C@H]([C@H](O1)O[C@@H]3[C@H](O[C@@H]([C@@H]([C@H]3O)O)O[C@@H]4[C@H](O[C@@H]([C@@H]([C@H]4O)O)O[C@@H]5[C@H](O[C@@H]([C@@H]([C@H]5O)O)O[C@@H]6[C@H](O[C@@H]([C@@H]([C@H]6O)O)O[C@@H]7[C@H](O[C@@H]([C@@H]([C@H]7O)O)O[C@@H]8[C@H](O[C@H](O2)[C@@H]([C@H]8O)O)CO)CO)CO)CO)CO)CO)O)O)O | C42H70O35
solvent | water | 200 ml | O | H2O
solvent | water | 200 ml | O | H2O
product | nimesulide L-lysine β-CD | CS(=O)(=O)NC=1C=CC(=CC1OC=2C=CC=CC2)[N+](=O)[O-].N[C@@H](CCCCN)C(=O)O.C([C@@H]1[C@@H]2[C@@H]([C@H]([C@H](O1)O[C@@H]3[C@H](O[C@@H]([C@@H]([C@H]3O)O)O[C@@H]4[C@H](O[C@@H]([C@@H]([C@H]4O)O)O[C@@H]5[C@H](O[C@@H]([C@@H]([C@H]5O)O)O[C@@H]6[C@H](O[C@@H]([C@@H]([C@H]6O)O)O[C@@H]7[C@H](O[C@@H]([C@@H]([C@H]7O)O)O[C@@H]8[C@H](O[C@H](O2)[C@@H]([C@H]8O)O)CO)CO)CO)CO)CO)CO)O)O)O | InChI=1S/C42H70O35.C13H12N2O5S.C6H14N2O2/c43-1-8-29-15(50)22(57)36(64-8)72-30-9(2-44)66-38(24(59)17(30)52)74-32-11(4-46)68-40(26(61)19(32)54)76-34-13(6-48)70-42(28(63)21(34)56)77-35-14(7-49)69-41(27(62)20(35)55)75-33-12(5-47)67-39(25(60)18(33)53)73-31-10(3-45)65-37(71-29)23(58)16(31)51;1-21(18,19)14-12-8-7-10(15(16)17)9-13(12)20-11-5-3-2-4-6-11;7-4-2-1-3-5(8)6(9)10/h8-63H,1-7H2;2-9,14H,1H3;5H,1-4,7-8H2,(H,9,10)/t8-,9-,10-,11-,12-,13-,14-,15-,16-,17-,18-,19-,20-,21-,22-,23-,24-,25-,26-,27-,28-,29-,30-,31-,32-,33-,34-,35-,36-,37-,38-,39-,40-,41-,42-;;5-/m1.0/s1
